US07700641B2
Synthesis of 1′-[(6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
To a mixture of 1′-[(6-methoxypyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (0.23 g, 0.57 mmol), sodium iodide (0.28 g, 1.87 mmol), water (2 drops) in anhydrous acetonitrile (5.00 mL) was added chlorotrimethylsilane (0.19 g, 1.78 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 h and quenched with sodium bisulfite (0.20 g). The reaction mixture was diluted with ethyl acetate (100 mL) and washed with brine (2×25.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was triturated with ether (2×10.0 mL) to give the title compound (0.16 g, 72%) as la ight yellow solid: mp 247-250° C.; 1H NMR (300 MHz, DMSO-d6,) δ 11.50 (br, 1H), 7.50 (bd, 1H), 7.36-7.24 (m, 2H), 7.17-7.12 (m, 2H), 7.01 (dt, 1H), 6.67 (s, 1H), 6.28 (d, 1H), 6.09 (s, 1H), 5.91-5.88 (m, 2H), 4.78 (d, 1H), 4.67-4.62 (m, 3H); MS (ES+) m/z 389.15 (M+1).

reactant | 1′-[(6-methoxypyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.57 mmol, 0.23 g | COC1=CC=C(C=N1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C23H18N2O5
reactant | sodium iodide | 1.87 mmol, 0.28 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 1.78 mmol, 0.19 g | Cl[Si](C)(C)C | C3H9ClSi
catalyst | water | 2 drops | O | H2O
solvent | acetonitrile | 5.00 mL | C(C)#N | C2H3N
product | 1′-[(6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.16 g, 72% | O=C1C=CC(=CN1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H16N2O5
